US04218331
Dioleyl adipate was synthesized by refluxing 733 grams (2.73 moles) oleyl alcohol, 190 grams (1.30 moles) adipic acid, 340 grams (500 ml.) heptane and 1.9 grams (0.02 mole) methane sulfonic acid under a nitrogen atmosphere for 5 hours, in a 3-liter, 3-necked flask equipped with an air driven stirrer, thermometer, reflux condenser and heating mantle. Approximately 47 ml. of water produced in the reaction was removed in a Dean-Stark trap. The reaction mixture was cooled to 25° C., diluted with 500 ml. of hexane and the resulting solution was washed 3 times with successive 200 ml. portions of 2% aqueous sodium hydroxide and water, followed by a water wash until the solution tested neutral using PH paper. The washed solution was clarified by vacuum filtration through a 1.4 inch bed of celite and dried over molecular sieves. Rotary evaporation removed most of the solvent from the reaction mixture. The remaining solvent was removed from the reaction mixture by high vacuum stripping at a pressure of 0.3 mm. Hg and a temperature of about 250° C. to about 265° C. The dioleyl adipate produced was examined and found to contain 2.1% oleyl alcohol.

reactant | oleyl alcohol | 2.73 moles, 733 grams | C(CCCCCCC\C=C/CCCCCCCC)O | C18H36O
reactant | adipic acid | 1.30 moles, 190 grams | C(CCCCC(=O)O)(=O)O | C6H10O4
reactant | heptane | 500 ml, 340 grams | CCCCCCC | C7H16
reactant | methane sulfonic acid | 0.02 mole, 1.9 grams | CS(=O)(=O)O | CH4O3S
solvent | water | O | H2O
product | dioleyl adipate | C(CCCCC(=O)OCCCCCCCC\C=C/CCCCCCCC)(=O)OCCCCCCCC\C=C/CCCCCCCC | C42H78O4
